US06716851B2
4-(3-Fluoroanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (100 mg, 0.486 mmol) and 3-fluoroaniline (47 μl, 0.486 mmol) similar to Example 11 and isolated as a light brown solid (74 mg, 54%). 1H NMR (CDCl3): 8.83 (d, J=4.8 Hz, 1H), 8.47 (d, J=9 Hz, 1H), 7.88 (m, 1H), 7.44-7.30 (m, 4H), 7.18-7.14 (m, 1H), 6.92-6.86 (m, 1H), 6.80 (s, 1H), 2.55 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.486 mmol, 100 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-fluoroaniline | 0.486 mmol, 47 μl | FC=1C=C(N)C=CC1 | C6H6FN
product | 4-(3-Fluoroanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | FC=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C16H13FN4
